US06479487B1
1-(5-Butoxypentyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-5-butoxypentane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-5-butoxypentane | ClCCCCCOCCCC | C9H19ClO
product | 1-(5-Butoxypentyl)-4-piperidone | C(CCC)OCCCCCN1CCC(CC1)=O | C14H27NO2
